* D:\home\brosnan\books\circuits\Circuits-LTSpice\Oscillators\555 - Astable mode.asc
* Generated by LTspice 26.0.1 for Windows.
A1 N008 N006 0 0 0 N004 N003 0 SRFLOP
R1 Vcc N005 5k
R2 N005 N009 5k
R3 N009 0 5k
R4 Vcc N001 10k
R5 N001 N007 10k
C1 N007 0 100n
X§U1 N007 N005 Vcc 0 N006 LT1018 ;§pnba In+)In-)V+)V-)OUT
X§U2 N009 N007 Vcc 0 N008 LT1018 ;§pnba In+)In-)V+)V-)OUT
V1 Vcc 0 5
Q1 N001 N004 0 0 NPN
E1 N002 0 N003 0 5
.model NPN NPN
.model PNP PNP
.lib C:\users\brosnan\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 10m
* 1 GND
* 2 Trigger
* 6 Threshold
* 8 Vcc
* 3 OUT
* 555 Timer
* 7 Discharge
* 4 Reset
* 5
* 555 Timer - Astable mode
* RS flip flop truth table\n \nR S Q\n0 0 Keeps previous state (either 0 or 1)\n0 1 1\n1 0 0\n1 1 prohibited
* Library below included based on ModelFile attribute of instance X§U1, X§U2 (C:\users\brosnan\AppData\Local\LTspice\lib\sym\Comparators\LT1018.asy)
.lib LT1018.sub
.backanno
.end
